US05153210
A mixture of 1,4-phenylene bis(propan-2-one), (17.12 g), ethane-1,2-diol (1.72 g) and a trace of 4-toluene sulphonic acid was heated under reflux in benzene for 2 hr. using a Dean and Stark apparatus. The solvent was evaporated and the residue chromatographed on silica. Elution with 1:3 diethyl ether:petrolroleum ether (40-60) gave 4-(2,2-(ethylenedioxy)propyl)phenyl propan-2-one, as a white solid (3.5 g). Further elution gave starting material (12.9 g).

reactant | 1,4-phenylene bis(propan-2-one) | 17.12 g | C1(=CC=C(C=C1)CC(C)=O)CC(C)=O | C12H14O2
reactant | ethane-1,2-diol | 1.72 g | C(CO)O | C2H6O2
reactant | 4-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(2,2-(ethylenedioxy)propyl)phenyl propan-2-one | C1OC(CC2=CC=C(C=C2)CC(C)=O)(C)OC1 | C14H18O3
